US05409936
To a mixture of ethyl 2-n-propyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (0.65 g), potassium carbonate (0.533 g) and dimethylformamide (6 ml) is added benzyl bromide (0.33 g). The mixture is stirred at room temperature for one hour, then diluted with ethyl acetate. The solution is washed with water, dried, and evaporated. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give ethyl 2-n-propyl-5-benzyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (0.49 g).

reactant | ethyl 2-n-propyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 0.65 g | C(CC)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C30H37N3O4
reactant | potassium carbonate | 0.533 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | benzyl bromide | 0.33 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-n-propyl-5-benzyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 0.49 g | C(CC)C1=NC2=C(C(N(CC2)CC2=CC=CC=C2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C37H43N3O4
